US04044030
The use of polar solvents as reaction media results in only very poor yields and lengthy reaction times are required. For example, the reaction of 1-nitroanthraquinone with a 300% excess of isopropylamine at 75° C after 100 hours gives a yield of only 70% of 1-isopropylaminoanthraquinone.

reactant | 1-nitroanthraquinone | [N+](=O)([O-])C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7NO4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 1-isopropylaminoanthraquinone | 70% | C(C)(C)NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C17H15NO2
